US04831027
Thus, for example, 4,4-dimethyl-6-isonicotinoylamino-7-nitro-4H-3,1-benzoxazin-2-one is obtained by reacting methyl anthranilate with methyl magnesium iodide in ethereal solution to obtain o-aminophenyl-dimethylcarbinol, which is cyclised by reacting with phosgene in a mixture of toluene and chloroform as solvent in the presence of solid potassium carbonate to obtain 4,4-dimethyl-4H-3,1-benzoxazin-2-one. By subsequent nitration with fuming nitric acid (d=1.52), 4,4-dimethyl-6-nitro-benzoxazin-2-one is obtained which is converted by catalytic hydrogenation in the presence of Raney nickel in dimethyl formamide into 6-amino-4,4-dimethyl-4H-3,1-benzoxazin-2-one. By inserting an acetyl protecting group by means of acetic anhydride, the precondition for further nitration with fuming nitric acid (d=1.52) is created in the 7- position of the molecule. The acetyl protecting group is split off again from the resulting 6-acetamido-4,4-dimethyl-7-nitro-4H-3,1-benzoxazin-2-on e by treating with concentrated hydrochloric acid in isopropanol, and the resulting 6-amino-4,4-dimethyl-7-nitro-4H-3,1-benzoxazin-2-one is converted into 4,4-dimethyl-6-isonicotinoylamido-7-nitro-4H-3,1-benzoxazin-2-one by treating with isonicotic acid chloride in pyridine as solvent.

reactant | 4,4-dimethyl-6-isonicotinoylamino-7-nitro-4H-3,1-benzoxazin-2-one | CC1(OC(NC2=C1C=C(C(=C2)[N+](=O)[O-])NC(C2=CC=NC=C2)=O)=O)C | C16H14N4O5
reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | methyl magnesium iodide | C[Mg]I
product | o-aminophenyl-dimethylcarbinol | NC1=C(C=CC=C1)C(O)(C)C | C9H13NO
